US04588737
1,4-Bis-(4-nitrophenoxy)-2-butene
A mixture of 5.6 g of p-nitrophenol, 4.3 g of 1,4-dibromo-2-butene, and 5.6 g of K2CO3 in 80 ml of acetone was heated at 60° C. overnight. The reaction mixture was poured into water and filtered to give, after drying, 6.8 g of product as a creamy colored solid.

reactant | p-nitrophenol | 5.6 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | 1,4-dibromo-2-butene | 4.3 g | BrCC=CCBr | C4H6Br2
reactant | K2CO3 | 5.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 1,4-Bis-(4-nitrophenoxy)-2-butene | [N+](=O)([O-])C1=CC=C(OCC=CCOC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C16H14N2O6
